US08232288B2
Stage (ii): Methyl 2-((tert-butoxycarbonyl(methyl)amino)methyl)-1H-benzo[d]imidazole-4-carboxylate
Acetic acid (45 ml) was added to a solution of methyl 2-amino-3-(2-(tert-butoxycarbonyl(methyl)amino)acetamido)benzoate (19.28 mmol, 1.0 eq.) in xylene (130 ml) and the reaction mixture was heated under reflux for 1 h. When the reaction was complete (checking by TLC), the solvent was evaporated to dryness, the residue was dissolved in ethyl acetate and the solution was washed with water and NaCl solution. The organic phase was concentrated to dryness in vacuo in order to obtain the desired product, which was employed in the next stage without further purification. Yield: 90%

reactant | Acetic acid | 45 ml | C(C)(=O)O | C2H4O2
reactant | methyl 2-amino-3-(2-(tert-butoxycarbonyl(methyl)amino)acetamido)benzoate | 19.28 mmol, 1.0 eq. | NC1=C(C(=O)OC)C=CC=C1NC(CN(C)C(=O)OC(C)(C)C)=O | C16H23N3O5
solvent | xylene | 130 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2-((tert-butoxycarbonyl(methyl)amino)methyl)-1H-benzo[d]imidazole-4-carboxylate | Yield: 90% | C(C)(C)(C)OC(=O)N(C)CC1=NC2=C(N1)C=CC=C2C(=O)OC | C16H21N3O4
